US09427475B2
Step A: methyl 2,3,4,6-tetra-O-benzyl-α-D-glucopyranoside
To a suspension of NaH (5.19 g of a 60% dispersion in oil, 130 mmol) in DMF (150 mL) was added portionwise methyl-α-D-glucopyranoside (4.2 g, 21.6 mmol). The resulting mixture was stirred at rt for 2 hr, to which tetrabutyl ammonium bromide (800 mg, 2.16 mmol) was and followed by dropwise addition of benzyl bromide (11.58 mL, 97 mmol). After stirring at rt overnight, the mixture was concentrated and the residue was suspended in water and extracted with ether (3×150 mL). The combined ether layers were washed with brine (200 mL), dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography on silica gel (330 g), eluting with 0-30% EtOAc in hexanes to give the title compound. 1H NMR (CDCl3, 400 MHz) δ 3.44 (s, 3H), 3.62 (dd, J=9.6, 3.5, 1H), 3.66-3.72 (m, 2H), 3.75-3.82 (m, 2H), 4.04 (t, J=9.3, 1H), 4.51-4.55 (m, 2H), 4.66 (d, J=12.1, 1H), 4.69 (d, J=3.5, 1H), 4.72 (d, J=12.1, 1H), 4.83-4.90 (m, 3H), 5.04 (d, J=11.0, 1H), 7.19 (m, 2H), 7.30-7.43 (m, 18H).

reactant | NaH | [H-].[Na+]
reactant | methyl-α-D-glucopyranoside | 21.6 mmol, 4.2 g | CO[C@@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O)O)O | C7H14O6
reactant | benzyl bromide | 97 mmol, 11.58 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutyl ammonium bromide | 2.16 mmol, 800 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | methyl 2,3,4,6-tetra-O-benzyl-α-D-glucopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C35H38O6
